US07989633B2
Ethyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
353 mg (1.06 mmol) of 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione are dissolved with 137 mg (1.06 mmol) of ethyl 3-aminocrotonate in 5 ml of ethanol and heated under reflux under argon for 24 h. The reaction solution is purified by preparative HPLC. Concentration of the product fractions and crystallization from ethyl acetate result in 245 mg (52% of theory) of the title compound as a yellow solid.

reactant | 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione | 1.06 mmol, 353 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)C1=CC=CC=C1)C(C)=O | C21H16O4
reactant | ethyl 3-aminocrotonate | 1.06 mmol, 137 mg | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(C(=C(NC1C)C)C(=O)OCC)C=1C=CC=C2C(C=C(OC12)C)=O | C27H25NO5
